US05231102
2-Carboxy-5,7-dichloro-4-ethoxycarbonylquinoline (1.6 g) was dissolved in ethanol (100 ml) and platinum oxide (0.16 g) was suspended in the solution. The reaction mixture was stirred under one atmosphere pressure of hydrogen for 1 h at ambient temperature, then filtered and concentrated in vacuo. Chromatography on SiO2 with 2.5% methanol, 0.5% acetic acid and 97% dichloromethane gave, as a colourless solid, cis-2-carboxy-5,7-dichloro-4-ethoxycarbonyl-1,2,3,4-tetrahydroquinoline (0.9 g, m.p. 160°-162° C.); δ (360 MHz, DMSO), 1.15 (3H, t, J=7.1 Hz, CH3CH2), 2.17 (1H, m, CHACHBHCCHD), 2.52 (1H, m, CHACHBHCCHD), 3.85 (1H, dd, J=7.1 and 3.1 Hz, CHACHBHCCHD), 3.98 (3H, m, CH3CH2 and CHACHBHCCHD), 6.65 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.70 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.87 (1H, br, s, NH); m/e 317 (M+), 198 (100%, M-CO2H, CO2Et and H); Found: C, 49.12; H, 4.18; N, 4.27. C13H13Cl2NO4 requires C, 49.08; H, 4.22; N. 4.40%.

reactant | 2-Carboxy-5,7-dichloro-4-ethoxycarbonylquinoline | 1.6 g | C(=O)(O)C1=NC2=CC(=CC(=C2C(=C1)C(=O)OCC)Cl)Cl | C13H9Cl2NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.16 g | [Pt]=O
product | cis-2-carboxy-5,7-dichloro-4-ethoxycarbonyl-1,2,3,4-tetrahydroquinoline | 0.9 g | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@@H](C1)C(=O)OCC)Cl)Cl | C13H13Cl2NO4
